US05556909
To a mixture of N-[(1-methyl)phenylmethyl]imino-acetic acid ethyl ester (67.5 g; 328.9 mmol) and cyclopentadiene (43.48 g, 657.8 mmol) in dry DMF under argon cooled to 0° C., was added in portions (5 ml portion) 37.5 g (328.9 mmol) of TFA followed by water (0.057 ml) and the resulting mixture was allowed to stir at room temperature for 22 hours. The above reaction mixture was poured into ice, extracted with 80% hexane in ethyl acetate (to remove excess cyclopentadiene), and the aqueous layer was slowly neutralized with sodium bicarbonate (to pH=8). The aqueous layer was extracted with ethyl acetate and the organic layer was separated and dried over sodium sulfate. The organic solvent was concentrated in vacuo to afford 52.6 g (62%) of ethyl 2-(1-phenylethyl)-2 -azabicyclo [2,2,1 ]hept-5-en-3-carboxylate.

reactant | N-[(1-methyl)phenylmethyl]imino-acetic acid ethyl ester | 328.9 mmol, 67.5 g | C(C)OC(C=NCC1(CC=CC=C1)C)=O | C12H17NO2
reactant | cyclopentadiene | 657.8 mmol, 43.48 g | C1=CC=CC1 | C5H6
reactant | TFA | 328.9 mmol, 5 ml, 37.5 g | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | water | 0.057 ml | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | ethyl 2-(1-phenylethyl)-2 -azabicyclo [2,2,1 ]hept-5-en-3-carboxylate | 52.6 g, 62% | C1(=CC=CC=C1)C(C)N1C2C=CC(C1C(=O)OCC)C2 | C17H21NO2
